US07465731B2
A mixture of ethyl (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-3-pyridyl}acrylate (470 mg) and 1N NaOH solution (2.6 ml) in MeOH (15 ml) was stirred at 65-70° C. for 2 hours. The reaction mixture was evaporated in vacuo and the residue was dissolved with AcOEt and H2O. The aqueous solution was adjusted to PH6.0 with aq.HCl and evaporated in vacuo. The residue was chromatographed on silicagel eluting with AcOEt-MeOH (85:15). The eluted fractions containing the desired product were collected and evaporated in vacuo to give (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-3-pyridyl}acrylic acid (430 mg).

reactant | ethyl (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-3-pyridyl}acrylate | 470 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)OCC | C22H27N3O2
reactant | NaOH | 1N, 2.6 ml | [OH-].[Na+]
solvent | MeOH | 15 ml | CO | CH4O
product | (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-3-pyridyl}acrylic acid | 430 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)O | C20H23N3O2
